US07238724B2
(5R)-1-{(2S)-2-((tert-butoxycarbonyl)amino)-2-cyclopentylethanoyl}-5-ethynyl-L-proline
To a stirred solution of methyl (5R)-1-{(2S)-2-((tert-butoxycarbonyl)amino)-2-cyclopentylethanoyl}-5-((trimethylsilyl)ethynyl)-L-prolinate (1.65 g, 3.66 mmol) in MeOH (10 mL) and H2O (10 mL) at room temperature was added LiOH.H2O (0.23 g, 5.49 mmol). The reaction mixture was stirred at room temperature for 16 hours and concentrated under reduced pressure. The residue was taken up in water and extracted with diethyl ether (2×). The aqueous layer was acidified to pH˜4 by adding 4% KHSO4 dropwise. The clear solution was extracted with ethyl acetate (3×) and the combined ethyl acetate layers were washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure to provide the titled compound. MS (CI) m/e 365 (M+H)+.

reactant | methyl (5R)-1-{(2S)-2-((tert-butoxycarbonyl)amino)-2-cyclopentylethanoyl}-5-((trimethylsilyl)ethynyl)-L-prolinate | 3.66 mmol, 1.65 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@H](C(=O)OC)CC[C@@H]1C#C[Si](C)(C)C)C1CCCC1 | C23H38N2O5Si
reactant | LiOH.H2O | 5.49 mmol, 0.23 g | O[Li].O
solvent | MeOH | 10 mL | CO | CH4O
solvent | H2O | 10 mL | O | H2O
product | (5R)-1-{(2S)-2-((tert-butoxycarbonyl)amino)-2-cyclopentylethanoyl}-5-ethynyl-L-proline | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@H](C(=O)O)CC[C@@H]1C#C)C1CCCC1 | C19H28N2O5
